US05646161
2,3-dihydro-2-[2-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-1H-isoindol-1-one
To 2-[2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-2,3-dihydro-3-hydroxy-1H-isoindol! -1-one (2.2 g, 5.6 mmol) was added a solution of trifluoroacetic acid (11.0 ml) in dichloromethane (30 ml) at room temperature, under nitrogen. Triethylsilane (1.5 ml) was then added and the reaction mixture was allowed to stir for 18 hours at which time it was poured into a NaHCO3 (sat.). The layers were separated and the aqueous phase was extracted with DCM (3×). The combined organics were washed with brine and dried (Na2SO4). Filtration and concentration gave the crude product as a solid which was recrystallized from EtOAc to give 1.6 g (79%) of the desired product as a white solid, m.p.=166°-168° C.

reactant | 2-[2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-2,3-dihydro-3-hydroxy-1H-isoindol | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCN2CC3=CC=CC=C3C2O)C=C1 | C22H24FN3O2
reactant | trifluoroacetic acid | 11.0 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | Triethylsilane | 1.5 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2,3-dihydro-2-[2-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-1H-isoindol-1-one | 1.6 g, 79% | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCN2C(C3=CC=CC=C3C2)=O)C=C1 | C22H22FN3O2
